US04070366
2,3-Di-n-propyl-4-methyl-5-carbethoxypyrrole
The crude product, obtained as in Example 74 but using 2-n-propyl-4-methyl-5-carbethoxypyrrole and propionaldehyde, was distilled (80° C 1 × 10-4 mm). The partially solidified distillate was dried on tile then recrystallized twice from aqueous ethanol as colorless needles (20%), m.p. 84°-87° C.

reactant | 2-n-propyl-4-methyl-5-carbethoxypyrrole | C(CC)C=1NC(=C(C1)C)C(=O)OCC | C11H17NO2
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 2,3-Di-n-propyl-4-methyl-5-carbethoxypyrrole | C(CC)C=1NC(=C(C1CCC)C)C(=O)OCC | C14H23NO2
